US20010018447A1
d) Preparation of 1,3-dihydro-2,2-dioxo-4-chloro-2, 1-benzisothiazole
The 2,6-dichlorobenzylsulfonamide (8 g, 33.47 mmol) was added to potassium carbonate (4.62 g, 33.47 mmol), copper powder (560 milligram (hereinafter “mg”)) and N,N-dimethylaniline (10 ml) in a round bottom flask. The reaction mixture was stirred at 170° C. for about 4 hours. then was cooled to room temperature and partitioned between ethyl acetate and 10% aqueous HCl. The combined organic phase was dried and concentrated. Chromatography of the residue on silica gel (30% Ethyl acetate/Hexane) gave desired product (4 g, 59%). EI-MS m/z 204.5 (M+).

reactant | 2,6-dichlorobenzylsulfonamide | 33.47 mmol, 8 g | ClC1=C(CS(=O)(=O)N)C(=CC=C1)Cl | C7H7Cl2NO2S
reactant | potassium carbonate | 33.47 mmol, 4.62 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 560 milligram | [Cu] | Cu
solvent | N,N-dimethylaniline | 10 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 1,3-dihydro-2,2-dioxo-4-chloro-2, 1-benzisothiazole | 4 g, 59% | O=S1(NC2=C(C1)C(=CC=C2)Cl)=O | C7H6ClNO2S
